US07592357B2
Step 2. 2-Chloro-4-fluoro-5-(hydroxymethyl)benzenesulfonamide
To a solution of methyl 5-(aminosulfonyl)-4-chloro-2-fluorobenzoate (500 mg, 1.87 mmol) in THF/EtOH (20 mL, 1:1), CaCl2 (415 mg, 3.74 mmol) and NaBH4 (283 mg, 7.48 mmol) were added in one portion respectively. The reaction mixture was stirred at room temperature for 6 hours, quenched with water. 1 M aqueous citric acid (5 mL) was added to the mixture and extracted with EtOAc (3×100 mL). The extracts were combined, washed with brine, and dried (Na2SO4). The solvent was evaporated to afford the product (440 mg, 98%) as a white solid. MS (ES+) m/z 262 [M+Na]+.

reactant | methyl 5-(aminosulfonyl)-4-chloro-2-fluorobenzoate | 1.87 mmol, 500 mg | NS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)F)Cl | C8H7ClFNO4S
reactant | CaCl2 | 3.74 mmol, 415 mg | [Cl-].[Cl-].[Ca+2]
reactant | NaBH4 | 7.48 mmol, 283 mg | [BH4-].[Na+]
solvent | THF EtOH | 20 mL | C1CCOC1.CCO
product | 2-Chloro-4-fluoro-5-(hydroxymethyl)benzenesulfonamide | 440 mg, 98% | ClC1=C(C=C(C(=C1)F)CO)S(=O)(=O)N | C7H7ClFNO3S
